US07632829B2
2-(6-Hydroxymethyl-pyridin-3-yloxy)-acetamide
1.25 g (6.35 mmol) of (6-Hydroxymethyl-pyridin-3-yloxy)-acetic acid methyl ester (prepared from 6-methyl-pyridin-3-ol by reaction with: 1) Chloro-acetic acid methyl ester, 2) m-Cl-perbenzoic acid and 3) trifluoroacetic acid anhydride) was treated with 31 ml 7M NH3 in MeOH for 2.5 h at RT. The suspension was evaporated to give 1.19 g (100%) of the title compound as a white solid. MS: 183.3 (MH+).

reactant | (6-Hydroxymethyl-pyridin-3-yloxy)-acetic acid methyl ester | 6.35 mmol, 1.25 g | COC(COC=1C=NC(=CC1)CO)=O | C9H11NO4
reactant | Chloro-acetic acid methyl ester | COC(CCl)=O | C3H5ClO2
reactant | trifluoroacetic acid anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NH3 | 7M, 31 ml | N | H3N
solvent | MeOH | CO | CH4O
product | 2-(6-Hydroxymethyl-pyridin-3-yloxy)-acetamide | 1.19 g, 100% | OCC1=CC=C(C=N1)OCC(=O)N | C8H10N2O3
